US06156702
Step b: tert-Butyl 2,4-dichloro-3-((2-furyl)(methoxymethyl))benzoate
At room temperature, 3.0 g (8.8 mmol) of tert-butyl 2,4-dichloro-3-((2-furyl)(hydroxymethyl))benzoate in 40 ml of tetrahydrofuran are stirred for 1 h with 0.4 g (16.6 mmol) of sodium hydride. 6.3 g (43.8 mmol) of iodomethane are added dropwise and the mixture is stirred at room temperature for a further 3 h. The reaction mixture is taken up in 100 ml of saturated aqueous sodium chloride solution, extracted with methyl tert-butyl ether, dried over sodium sulfate, filtered and freed from the solvent under reduced pressure. The crude product is purified by silica gel chromatography using cyclohexane/ethyl acetate. Yield: 2.7 g; 1H NMR, δ [ppm], (CDCl3): 1.6 (s), 3.5 (s), 6.2 (m), 6.3 (m), 7.4 (m), 7.5 (d)

reactant | tert-butyl 2,4-dichloro-3-((2-furyl)(hydroxymethyl))benzoate | 8.8 mmol, 3.0 g | ClC1=C(C(=O)OC(C)(C)C)C=CC(=C1C(O)C=1OC=CC1)Cl | C16H16Cl2O4
reactant | sodium hydride | 16.6 mmol, 0.4 g | [H-].[Na+]
reactant | iodomethane | 43.8 mmol, 6.3 g | IC | CH3I
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | sodium chloride | 100 ml | [Cl-].[Na+]
product | tert-Butyl 2,4-dichloro-3-((2-furyl)(methoxymethyl))benzoate | ClC1=C(C(=O)OC(C)(C)C)C=CC(=C1C(OC)C=1OC=CC1)Cl | C17H18Cl2O4
